US07037935B2
A suspension of 677 mg of sodium hydride (55% dispersion in oil) in 10 ml of N,N-dimethylformamide are cooled to 0° C. Thereupon, 5.61 g (20.5 mmol) of diethyl (4-nitrobenzyl)phosphonate are added portionwise. The reaction mixture is left to warm to RT and stirred for 1.5 hours. Thereafter, the mixture is cooled to −101° C. and a solution of 1.5 g (12.1 mmol) of 3-fluorobenzaldehyde in 5 ml N,N-dimethylformamide is added dropwise. Stirring is continued for 30 min at 0° C., then at RT. For the working-up, ice and ethyl acetate is added to the reaction mixture. The organic layer is separated, dried over magnesium sulfate and evaporated under reduced pressure to yield the crude crystalline product, which after recrystallisation from a mixture of ether and heptane gives 2.41 g (82% of theory) of (E)-1-fluoro-3-[2-(4-nitrophenyl)ethenyl]-benzene as a yellow solid; MS: m/e=243 (M)+.

reactant | sodium hydride | 677 mg | [H-].[Na+]
reactant | diethyl (4-nitrobenzyl)phosphonate | 20.5 mmol, 5.61 g | [N+](=O)([O-])C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16NO5P
reactant | 3-fluorobenzaldehyde | 12.1 mmol, 1.5 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (E)-1-fluoro-3-[2-(4-nitrophenyl)ethenyl]-benzene | 2.41 g, 82% | FC1=CC(=CC=C1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C14H10FNO2
